US04045566
4-p-Hydroxyanilinocarbonylmethylamino-1-(4-phenyl-4-oxobutyl) piperidine
4-p-Methoxyanilinocarbonylmethylamino-1-(4 -phenyl-4-oxobutyl)-piperidine may be reacted with pyridine hydrochloride to give the title compound.

reactant | 4-p-Methoxyanilinocarbonylmethylamino-1-(4 -phenyl-4-oxobutyl)-piperidine | COC1=CC=C(NC(=O)CNC2CCN(CC2)CCCC(=O)C2=CC=CC=C2)C=C1 | C24H31N3O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 4-p-Hydroxyanilinocarbonylmethylamino-1-(4-phenyl-4-oxobutyl) piperidine | OC1=CC=C(NC(=O)CNC2CCN(CC2)CCCC(=O)C2=CC=CC=C2)C=C1 | C23H29N3O3
